US04806145
A solution of 15.0 g (0.056 mole) of 4-difluoromethyl-4,5-dihydro-1-(4-methyl-3-methoxyphenyl)-3-methyl-1,2,4-triazol-5(1H)-one and 7.5 g (0.056 mole) of sulfuryl chloride in 100 mL of chloroform was stirred at room temperature for two hours. The reaction mixture was concentrated under reduced pressure to leave a residue. This residue was dissolved in methylene chloride and washed with an aqueous 10% sodium hydroxide solution. The organic layer was dried with magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure to yield 16.5 g of 1-(2-chloro-4-methyl-5-methoxyphenyl)-4-difluoromethyl-4,5-dihydro-3-methyl-1,2,4-triazol-5(1H)-one as a solid.

reactant | 4-difluoromethyl-4,5-dihydro-1-(4-methyl-3-methoxyphenyl)-3-methyl-1,2,4-triazol-5(1H)-one | 0.056 mole, 15.0 g | FC(N1C(=NN(C1=O)C1=CC(=C(C=C1)C)OC)C)F | C12H13F2N3O2
reactant | sulfuryl chloride | 0.056 mole, 7.5 g | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | chloroform | 100 mL | C(Cl)(Cl)Cl | CHCl3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-(2-chloro-4-methyl-5-methoxyphenyl)-4-difluoromethyl-4,5-dihydro-3-methyl-1,2,4-triazol-5(1H)-one | 16.5 g | ClC1=C(C=C(C(=C1)C)OC)N1N=C(N(C1=O)C(F)F)C | C12H12ClF2N3O2
